US04861769
A mixture of ethyl 2-carbamoyl-2-(cyclopropyloxyimino)acetate (syn isomer)(8.14 g) and triethyloxonium fluoroborate (11.5 g) in methylene chloride (110 ml) was stirred at ambient temperature for 16 hours. To the mixture was added triethylamine (17 ml) under ice-cooling. The mixture was washed with water, dried over sodium sulfate, and concentrated in vacuo to give a residue. The residue was dissolved in diisopropyl ether. The solution was washed with water, dried over sodium sulfate, and concentrated in vacuo to give ethyl 3-ethoxy-3-imino-2-(cyclopropyloxyimino)propionate (syn isomer(9.60 g) as an oil.

reactant | ethyl 2-carbamoyl-2-(cyclopropyloxyimino)acetate | 8.14 g | C(N)(=O)C(C(=O)OCC)=NOC1CC1 | C8H12N2O4
reactant | triethyloxonium fluoroborate | 11.5 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | triethylamine | 17 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 110 ml | C(Cl)Cl | CH2Cl2
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | ethyl 3-ethoxy-3-imino-2-(cyclopropyloxyimino)propionate | C(C)OC(C(C(=O)OCC)=NOC1CC1)=N | C10H16N2O4
